US08669246B2
2-{[(3,5-Dimethoxy-4-methylbenzoyl)(3-phenylpropyl)amino]methyl}-5-methyl-1,3-thiazole-4-carboxylic acid (150 mg) and CDI (78 mg) was added to anhydrous THF (5 mL), followed by heating at 60° C. for about 1 hour. To the reaction mixture were added N,N-dimethylsulfamide (60 mg) and DBU (73 mg) under ice-cooling, respectively, followed by stirring at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and neutralized by the addition of an appropriate amount of purified water and 1 M hydrochloric acid, and then extracted from chloroform. The obtained organic layer was dried over MgSO4, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=1:2) to obtain 2-{[(3,5-dimethoxy-4-methylbenzoyl)(3-phenylpropyl)amino]methyl}-N-[(dimethylamino)sulfonyl]-5-methyl-1,3-thiazole-4-carboxamide (111 mg) as a white solid.

reactant | 2-{[(3,5-Dimethoxy-4-methylbenzoyl)(3-phenylpropyl)amino]methyl}-5-methyl-1,3-thiazole-4-carboxylic acid | 150 mg | COC=1C=C(C(=O)N(CCCC2=CC=CC=C2)CC=2SC(=C(N2)C(=O)O)C)C=C(C1C)OC | C25H28N2O5S
reactant | CDI | 78 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N,N-dimethylsulfamide | 60 mg | CN(S(=O)(=O)N)C | C2H8N2O2S
reactant | DBU | 73 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-{[(3,5-dimethoxy-4-methylbenzoyl)(3-phenylpropyl)amino]methyl}-N-[(dimethylamino)sulfonyl]-5-methyl-1,3-thiazole-4-carboxamide | 111 mg | COC=1C=C(C(=O)N(CCCC2=CC=CC=C2)CC=2SC(=C(N2)C(=O)NS(=O)(=O)N(C)C)C)C=C(C1C)OC | C27H34N4O6S2
